US04344954
2-(o-Chlorophenyl)-2,3,5,6,7,8-hexahydro-3-(2-thienyl)-thiazolo[3,2-a][1,3]diazepin-3-ol
A mixture of 9.2 ml. of 2-thiophenecarboxaldehyde, 11.3 ml. of o-chlorobenzaldehyde, 8 g. of potassium cyanide and 100 ml. of 65% ethanol is refluxed for 2 hours and then refrigerated. A 30 ml. portion of water is added, refrigeration is continued, the oil is separated by decantation, added to toluene, washed with water, dried and concentrated giving 12.7 g. of an oil. A 9.0 g. portion of this oil is mixed with 8.4 ml. of triethylamine and 100 ml. of toluene and stirred as a mixture of 2.4 ml. of methanesulfonyl chloride in 100 ml. of toluene is added. The mixture is stirred overnight then 100 ml. of water is added. The toluene layer is separated, washed with water, dried and concentrated, giving 10.6 g. of oily 2-thienyl α-hydroxy(2-chlorophenyl)ketone. This oil is combined with 3.9 g. of hexahydro-2H-1,3-diazepin-2-thione in 150 ml. of acetone and allowed to stand 48 hours. The solvent is removed, 100 ml. of water and 2 ml. of ammonium hydroxide are added and the aqueous layer is decanted. Ethanol is added, the mixture is cooled and the solid is collected, giving 3.4 g. of the desired product, m.p. 120°-122° C.

reactant | 2-thiophenecarboxaldehyde | S1C(=CC=C1)C=O | C5H4OS
reactant | o-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | potassium cyanide | [C-]#N.[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | hexahydro-2H-1,3-diazepin-2-thione | N1C(NCCCC1)=S | C5H10N2S
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 2-(o-Chlorophenyl)-2,3,5,6,7,8-hexahydro-3-(2-thienyl)-thiazolo[3,2-a][1,3]diazepin-3-ol | ClC1=C(C=CC=C1)C1C(N2C(=NCCCC2)S1)(O)C=1SC=CC1 | C17H17ClN2OS2
